US08372864B2
6.1.1: N-[2-(2-bromophenyl)ethyl]pentan-1-amine
7 g of 2-(2-bromophenyl)ethyl methanesulfonate, 14.5 cm3 of 1-pentanamine, 17.33 g of potassium carbonate and 200 cm3 of tetrahydrofuran are stirred at a temperature between 65° C. and 70° C. under an inert atmosphere for 72 h. The reaction mixture is brought to 30° C. in order to be poured over a mixture of water, ice and ethyl acetate. The phases are stirred for 5 min, then are separated. The aqueous phase is extracted 3 times with ethyl acetate. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). The 6.6 g of oil obtained are purified by flash chromatography over silica (column: 200 g; particle size: 15-40 μm; eluent: 95% dichloromethane/5% methanol to 90% dichloromethane/10% methanol gradient). After concentrating the fractions under reduced pressure, 4.56 g of N-[2-(2-bromophenyl)ethyl]pentan-1-amine are obtained in the form of a white oil.

reactant | 2-(2-bromophenyl)ethyl methanesulfonate | 7 g | CS(=O)(=O)OCCC1=C(C=CC=C1)Br | C9H11BrO3S
reactant | 1-pentanamine | 14.5 cm3 | C(CCCC)N | C5H13N
reactant | potassium carbonate | 17.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-[2-(2-bromophenyl)ethyl]pentan-1-amine | 6.6 g | BrC1=C(C=CC=C1)CCNCCCCC | C13H20BrN
